US08754209B2
To a stirred solution of ethyl 6-(4-aminophenyl)-1H-indazole-3-carboxylate (40 mg), 3-trifluoromethyl-benzoic acid (35.2 mg), triethylamine (40 and HOBt (25 mg) in N,N-dimethylformamide, was added EDCI (40.6 mg). The mixture was stirred at 70° C. for 12 h. The mixture cooled to room temperature and ethyl acetate and water were added. The mixture was extracted with ethyl acetate three times. The combined organic layer was washed with saturated sodium bicarbonate solution, dried over sodium sulfate, and concentrated under reduced pressure. The residue was triturated by ethylacetate/hexane to give ethyl 6-(4-(3-(trifluoromethyl)benzamido)phenyl)-1H-indazole-3-carboxylate (46.6 mg).

reactant | ethyl 6-(4-aminophenyl)-1H-indazole-3-carboxylate | 40 mg | NC1=CC=C(C=C1)C1=CC=C2C(=NNC2=C1)C(=O)OCC | C16H15N3O2
reactant | 3-trifluoromethyl-benzoic acid | 35.2 mg | FC(C=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O2
reactant | HOBt | 25 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 40.6 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | ethyl 6-(4-(3-(trifluoromethyl)benzamido)phenyl)-1H-indazole-3-carboxylate | 46.6 mg | FC(C=1C=C(C(=O)NC2=CC=C(C=C2)C2=CC=C3C(=NNC3=C2)C(=O)OCC)C=CC1)(F)F | C24H18F3N3O3
